US05744471
7-Chloro-2-(3,4-dihydroxyphenyl)-4-hydroxy-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione.
7-Chloro-4-hydroxy-2-(3,4-dimethoxyphenyl)-1,2,5,10-tetrahydropyridazino-[4,5-b]quinoline-1,10-dione (1.00 g, 2.50 mM) was refluxed in 48% HBr (40 mL)for 6 hours to give an orange suspension. Heat was removed and the suspension was filtered while still warm. The collected solids were washedwith water and then ether to give the crude product (0.94 g) as a yellow powder. This material was recrystallized from refluxing methanol (600 mL) to give the title compound (0.63 g, 68%) as a yellow powder, mp=269°-272° C.; MS(CI): 372 (M+H).

reactant | 7-Chloro-4-hydroxy-2-(3,4-dimethoxyphenyl)-1,2,5,10-tetrahydropyridazino-[4,5-b]quinoline-1,10-dione | 2.50 mM, 1.00 g | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=CC(=C(C=C3)OC)OC)O)=O | C19H14ClN3O5
solvent | HBr | 40 mL | Br | BrH
product | 7-Chloro-2-(3,4-dihydroxyphenyl)-4-hydroxy-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | 0.63 g, 68% | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=CC(=C(C=C3)O)O)O)=O | C17H10ClN3O5
